US08258160B2
Preparation of N-benzyl-2-formyl-4-methylthiazole-5-carboxamide
To a solution of N-benzyl-4-methylthiazole-5-carboxamide (1.00 g, 4.31 mmol) in tetrahydrofuran (20 mL) was added lithium bis(trimethylsilyl)amide (9.5 mL of 1.0 M solution in tetrahydrofuran, 9.5 mmol) at −78° C. The reaction mixture was stirred for 5 minutes, and N,N-dimethylformamide (0.35 mL, 4.54 mmol) was added. The reaction mixture was slowly warmed to ambient temperature over 4 hours, quenched with 5% hydrochloric acid (10 mL), extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography to afford the title compound in 98% yield (1.1 g): MS (ES+) m/z 261.1 (M+1).

reactant | N-benzyl-4-methylthiazole-5-carboxamide | 4.31 mmol, 1.00 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=CS1)C | C12H12N2OS
reactant | lithium bis(trimethylsilyl)amide | 9.5 mmol, 1.0 M, 9.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | N,N-dimethylformamide | 4.54 mmol, 0.35 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-benzyl-2-formyl-4-methylthiazole-5-carboxamide | 98% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C=O)C | C13H12N2O2S
